US06001849
Preparation of 5-chloro-2-(1-methyl-2-(S)-pyrrolidinyl)-furo[3,2-b]pyridine hydrochloride
A 660 mg (1.04 mmol) sample of 2-(2-(S)-pyrrolidinyl)-5-chlorofuro[3,2-b]pyridine dihydrochloride, from Example 11e above, was dissolved in 5 mL of 88% formic acid and 10 mL of 37% aqueous formaldehyde and heated at reflux for 1 hour. The reaction mixture was cooled, poured into saturated K2CO3, and the mixture was extracted with CH2Cl2. The extract was dried over MgSO4, and the solvent was removed. The residue was chromatographed on silica gel, eluting with 100:0 to 95:5 CHCl3 :MeOH. The residue was converted to the salt by treatment with HCl/ether to give 540 mg of title compound: 1H NMR (D2O, 300 MHz) δ 2.28-2.38 (m, 2H), 2.49-2.72 (m, 2H), 2.92 (br s, 3H), 3.41 (m, 1H), 3.80 (m, 1H), 4.84 (m, 1H), 7.50 (d, 1H, J=8.8 Hz), 8.0 (d, 1H, J=8.8 Hz), 8.56 (d, 1H); MS m/z: 237 (M+H)+ ; Anal. Calcd for C12H13N2OCl.1.0 HCl. C, 52.07; H, 5.13; N, 10.12. Found: C, 51.85; H, 5.46; N, 9.78.

reactant | 2-(2-(S)-pyrrolidinyl)-5-chlorofuro[3,2-b]pyridine dihydrochloride | Cl.Cl.N1[C@@H](CCC1)C1=CC2=NC(=CC=C2O1)Cl
reactant | formaldehyde | 10 mL | C=O | CH2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | 5-chloro-2-(1-methyl-2-(S)-pyrrolidinyl)-furo[3,2-b]pyridine hydrochloride | 540 mg | Cl.ClC1=CC=C2C(=N1)C=C(O2)[C@H]2N(CCC2)C | InChI=1S/C12H13ClN2O.ClH/c1-15-6-2-3-9(15)11-7-8-10(16-11)4-5-12(13)14-8;/h4-5,7,9H,2-3,6H2,1H3;1H/t9-;/m0./s1
